US07034039B2
Tert-butyl[4-butoxy-6-(4-cyano-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.20 g, 0.4 mmol) was dissolved in a solution of 4N hydrogen chloride in ethyl acetate (5 ml) and the mixture was stirred at room temperature for 1 h. The reaction mixture was concentrated under reduced pressure, and the residue was crystallized from ethyl acetate to give 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carbonitrile hydrochloride (0.17 g, 94.4%) as crystals.

reactant | Tert-butyl[4-butoxy-6-(4-cyano-1,3-thiazol-2-yl)-2-isobutyl-1-oxo-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.4 mmol, 0.20 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC=C(N1)C#N)=O)CC(C)C)=O | C27H34N4O4S
reactant | hydrogen chloride | 4N | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | 2-[3-(aminomethyl)-4-butoxy-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-1,3-thiazole-4-carbonitrile hydrochloride | 0.17 g, 94.4% | Cl.NCC=1N(C(C2=CC=C(C=C2C1OCCCC)C=1SC=C(N1)C#N)=O)CC(C)C | InChI=1S/C22H26N4O2S.ClH/c1-4-5-8-28-20-18-9-15(21-25-16(10-23)13-29-21)6-7-17(18)22(27)26(12-14(2)3)19(20)11-24;/h6-7,9,13-14H,4-5,8,11-12,24H2,1-3H3;1H
